US07829570B2
tert-Butyl 4-[7-amino-1-(3-methoxy-4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1,2,3,6-tetrahydro-1-pyridinecarboxylate
A mixture of 3-iodo-1-(3-methoxy-4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine (300 mg, 0.728 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydro-1-pyridinecarboxylate (270 mg, 0.874 mmol), sodium carbonate (185 mg, 1.75 mmol) and tetrakis(triphenylphosphine)palladium(0) (50 mg, 0.044 mmol) in 1,2-dimethoxy ethane (6 mL) and water (3 mL) was heated in an 85° C. oil bath for 1.75 hours. tert-Butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydro-1-pyridinecarboxylate (45 mg, 0.146 mmol) was added to the mixture and then it was heated in the 85° C. oil bath for another 16 hours. The solvents were evaporated under reduced pressure then the residue was partitioned between water (10 mL) and ethyl acetate (15 mL). The layers were separated and then the aqueous layer was extracted with ethyl acetate (10 mL), dichloromethane (20 mL) and then a 10% solution of methanol in dichloromethane (20 mL). The organic solutions thus obtained were combined and evaporated to a residue which was purified by flash chromatography on silica gel using ethyl acetate as an eluent to provide the title compound as a yellow solid (205 mg, 60%): 1H NMR (DMSO-d6, 400 MHz) δ 8.40 (s, 1H), 8.10 (d, 1H), 7.50 (m, 1H), 7.42 (s, 1H), 7.31 (d, 1H), 7.1 (bs, 2H), 4.13 (m, 2H), 3.99 (s, 3H), 3.58 (m, 2H), 2.67 (m, 2H), 1.44 (s, 9H) RP-HPLC (Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 5%-100% acetonitrile-0.05 M ammonium acetate over 25 min, 1 mL/min) tr 21.42 min; MS: M−H+ 466.3

reactant | 3-iodo-1-(3-methoxy-4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-7-amine | 0.728 mmol, 300 mg | IC1=NN(C2=C1N=CN=C2N)C2=CC(=C(C=C2)[N+](=O)[O-])OC | C12H9IN6O3
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydro-1-pyridinecarboxylate | 0.874 mmol, 270 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | sodium carbonate | 1.75 mmol, 185 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-Butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydro-1-pyridinecarboxylate | 0.146 mmol, 45 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
solvent | 1,2-dimethoxy ethane | 6 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.044 mmol, 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-[7-amino-1-(3-methoxy-4-nitrophenyl)-1H-pyrazolo[4,3-d]pyrimidin-3-yl]-1,2,3,6-tetrahydro-1-pyridinecarboxylate | 205 mg, 60% | NC=1C2=C(N=CN1)C(=NN2C2=CC(=C(C=C2)[N+](=O)[O-])OC)C=2CCN(CC2)C(=O)OC(C)(C)C | C22H25N7O5
